US04511391
5-(2,3-Dihydro-4,5,6-trimethylbenzo[b]furan-7-yl)-3-hydroxycyclohex-2-en-1-one (1.5 g, 6 mmol) was added to a mixture of sodium hydride (6.6 mmol) and anhydrous dimethylformamide (50 ml) under nitrogen. After 15 min n-butyric anhydride (0.96 g, 6.6 mmol) was added and the mixture was heated and stirred at 110° C. for 2 hrs. After cooling, the mixture was poured into water (300 ml) which was then extracted with diethyl ether. The residue obtained after evaporation of the dried (Na2SO4) organic extract was purified by column chromatography over silica gel with dichloromethane elution to give 2-butyryl-5-(2,3-dihydro-4,5,6-trimethylbenzo[b]furan-7-yl)-3-hydroxycyclohex-2-en-1-one (0.96 g, 51%) as a pale yellow solid, mp 140° C.

reactant | 5-(2,3-Dihydro-4,5,6-trimethylbenzo[b]furan-7-yl)-3-hydroxycyclohex-2-en-1-one | 6 mmol, 1.5 g | CC1=C(C(=C(C=2OCCC21)C2CC(=CC(C2)=O)O)C)C | C17H20O3
reactant | sodium hydride | 6.6 mmol | [H-].[Na+]
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | n-butyric anhydride | 6.6 mmol, 0.96 g | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | water | 300 ml | O | H2O
product | 2-butyryl-5-(2,3-dihydro-4,5,6-trimethylbenzo[b]furan-7-yl)-3-hydroxycyclohex-2-en-1-one | 0.96 g, 51% | C(CCC)(=O)C=1C(CC(CC1O)C1=C(C(=C(C2=C1OCC2)C)C)C)=O | C21H26O4
